US08026257B2
tert-Butyl 4-(((5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)(cyano)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((2-amino-1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (64 mg, 0.099 mmol) in dimethylformamide (0.7 mL) at 0° C. was added cyanuric chloride (18.2 mg, 0.10 mmol). The ice bath was removed and stirring continued for 5 h. The reaction was diluted with diethyl ether and quenched by addition of water. After stirring for 10 min, the ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (18%→25% ethyl acetate/n-hexane) gave 31 mg (50%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ0 8.08 (s, 1H), 7.68 (d, J=1.2 Hz, 1H), 7.29 (dd, J=8.6, 5.2 Hz, 2H), 7.24 (s, 1H), 7.00 (dd, J=8.9, 8.5 Hz, 2H), 5.71 (s, 1H), 5.69 (d, J=10.7 Hz, 1H), 5.64 (d, J=10.7 Hz, 1H), 3.76 (m, 3H), 3.61 (t, J=8.2 Hz, 2H), 3.58 (d, J=8.9 Hz, 1H), 3.03 (m, 2H), 2.14 (m, 2H), 1.90 (m, 2H), 1.43 (s, 9H), 0.92 (m, 2H), −0.03 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=246 Hz), 155.0, 144.3, 137.6, 128.9 (d, J=8.6 Hz), 127.6, 125.9, 124.4, 122.92, 122.87, 121.0, 116.6, 115.4(d, J=21 Hz), 82.1, 79.6, 78.6, 68.0, 66.5, 41.2, 40.0 (br), 32.0, 28.5, 17.9, −1.3. Mass spec.: 629.35 (MH)+

reactant | tert-butyl 4-((2-amino-1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.099 mmol, 64 mg | NC(C(OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl)=O | C32H44ClFN4O5Si
reactant | cyanuric chloride | 0.10 mmol, 18.2 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(((5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)(cyano)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C#N)COCC[Si](C)(C)C | C32H42ClFN4O4Si
